Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Fevers, abdominal pain 

 
Major Surgical or Invasive Procedure:
___ Renal Coiling (___)

 
History of Present Illness:
Mr. ___ is a ___ year old M w/ hx of UTI (x2) and proteinuria
s/p renal biopsy 1 week ago presenting with two days of fevers,
chills, abdominal pain, and pain around his biopsy site. He
underwent biopsy 1 week ago for proteinuria (previously followed
for ___ years with imaging/labs/urine studies, then got new
nephrologist who recommended biopsy) with drop in crit post
procedure.  Ultrasound noted perinephric hematoma at that time
but this was felt to be stable. Patient reported over the 
weekend
he had some night chills and he had dysuria on ___ then
resolved. He felt fine on ___ and ___ daytime. Starting
___ evening, he developed fever, chills and left CVA pain and
LLQ pain w/ BM. On ___ he developed a fever up to 101.4 and
he continued to have pain. He also reported feeling stiff in his
back and he had more pain with position change. He reports
pinkish urine this morning. He had some headache w/ fever, no
changes in UOP. 

In the ED, initial vitals notable for HR 119 and T 100.6. Exam
showed tenderness around site of biopsy. Labs were notable for
WBC 11.1. Initial CT showed moderate sized left RP
hematoma--decision was made to observe with serial CBC. Hgb
subsequently dropped from 11.6 to 8.7 and the patient became
tachycardic in the 120s. UA was notable for 14 RBCs. CTA A/P was
concerning for pseudoaneurysm in the kidney. He was given 1L LR
bolus and started on IV Zosyn. His lowest BP was 120/78. He was
taken to ___ where the pseudoaneurysm was coiled via R femoral
approach (hemostasis with manual pressure), and he was given 1U
PRBCs. Post-coiling angiogram revealed cessation of flow in
pseudoaneurysm.

Upon arrival to the ICU, he endorses feeling better than
previously. He has minimal pain in his L flank when lying down.
He has some pain in his R groin at access site. Otherwise no
complaints.

ROS: Positives as per HPI; otherwise negative.  
 
Past Medical History:
UTIs
Proteinuria s/p renal biopsy
s/p tonsillectomy 

 
Social History:
___
Family History:
Negative for kidney disease
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VS: reviewed in metavision
GEN: Well-appearing, NAD 
EYES: No scleral icterus
HENNT: NCAT, MMM, no JVD
CV: Tachycardic, regular, no r/m/g 
RESP: CTAB 
GI: Soft, NNTD 
EXT: WWP, no ___ edema. 2+ DP pulses bilaterally. R leg in
immobilizer. R groin with ~3 cm soft hematoma, no pulsatility.  
SKIN: No visible rash 
NEURO: AO x 3, moving all extremities 
PSYCH: Affect appropriate

Discharge Exam:
===============
VS: ___ 0725 Temp: 97.4 PO BP: 122/85 R Sitting HR: 96 RR:
18 O2 sat: 98% O2 delivery: Ra 
GEN: Well appearing, NAD
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds.
EXTREMITIES: No edema. WWP. Right groin access site well
appearing, mildly tender. Lt ___ MCP swelling, redness, warmth,
tenderness full ROM.
NEURO: AOx3. 

 
Pertinent Results:
ADMISSION LABS
===============
___ 11:43AM BLOOD WBC-11.1* RBC-3.85* Hgb-11.6* Hct-34.6* 
MCV-90 MCH-30.1 MCHC-33.5 RDW-12.5 RDWSD-40.0 Plt ___
___ 04:00AM BLOOD ___ PTT-28.2 ___
___ 11:43AM BLOOD Glucose-81 UreaN-11 Creat-0.8 Na-140 
K-3.9 Cl-100 HCO3-28 AnGap-12
___ 04:00AM BLOOD Calcium-7.5* Phos-3.2 Mg-1.9
___ 12:03PM BLOOD Lactate-1.6

DISCHARGE LABS
===============
___ 08:49AM BLOOD WBC-6.9 RBC-3.58* Hgb-10.7* Hct-32.6* 
MCV-91 MCH-29.9 MCHC-32.8 RDW-12.7 RDWSD-42.1 Plt ___
___ 04:51AM BLOOD ___ PTT-28.7 ___
___ 08:49AM BLOOD Plt ___
___ 08:49AM BLOOD Glucose-89 UreaN-10 Creat-0.7 Na-144 
K-4.5 Cl-105 HCO3-25 AnGap-14
___ 08:49AM BLOOD Calcium-9.0 Phos-4.2 Mg-2.1

IMAGING/STUDIES
================
___ CTA Abd
1. Large left retroperitoneal hematoma.  No active bleeding 
though probable pseudoaneurysm along the left lower pole cortex. 

2. Small left pleural effusion appears simple with mild 
subjacent compressive lower lobe atelectasis. 

___ XR Hand
Unremarkable left hand radiographs

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M with history of proteinuria, who is 
s/p renal biopsy 1 week ago, who presented with CVA pain and 
found to have RP hematoma. He was evaluated by interventional 
radiology, and oon ___ underwent coiling pseudoaneurysm at the 
site of prior biopsy. He did have fevers at the time of 
presentation and received IV antibiotics. He was admitted to the 
MICU where is pain was improved post procedure and he was 
hemodynamically stable. Antibiotics were discontinued given low 
concern for urinary tract infection or infection of the 
hematoma. He was then transferred to the floor, where he was 
hemodynamically stable, afebrile, with well controlled pain at 
the time of discharge. He improved and was ready to d/c. 

ACUTE ISSUES:
=============
# Acute blood loss anemia
# Renal pseudoaneurysm
Peudoanuerysm likely a complication of renal biopsy. He is now
s/p coiling with ___, with post-procedure angiogram without flow
to pseudoaneurysm. His subsequent CBCs were stable after 
procedure.
His pain was controlled with Tylenol alone adequately.

# Fever
Initially was given antibiotics given concern of sepsis from 
possible urinary tract infection or patient of hematoma. 
However, urinalysis was unremarkable and ultimately antibiotics 
were discontinued given low concern for infection.

# Rt ___ MCP joint arthritis:
On day of discharge he did have some Rt ___ MCP joint redness 
and pain. No appreciable effusion. XR showed no abnormalities. 
Unclear if this was related to minor trauma. In light of 
proteinuria, may represent possible rheumatologic condition and 
could consider work-up with RF, ___ as outpt

CHRONIC ISSUES 
=============== 
# Proteinuria
The patient will follow up with renal as outpatient for biopsy 
results.

TRANSITIONAL ISSUES 
==================
[ ] F/u CBC, back pain at PCP appointment in 1 week
[ ] Follow up pathology results from biopsy
[ ] Consider referral to rheumatology for broad work-up given 
proteinuria, ?arthritis. consider work-up with RF, ___, 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Vitamin D ___ UNIT PO 1X/WEEK (___) 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Vitamin D ___ UNIT PO 1X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary
Acute blood loss anemia
Renal pseudoaneurysm

Secondary
Proteinuria
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr ___,
  
It was a pleasure caring of you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted for back pain

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were found to have bleeding around the site of your 
previous biopsy
- You had an interventional radiology procedure in which a coil 
was placed to stop the bleeding
- You were briefly given antibiotics, which were then stopped

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments. 
- Seek medication attention if you have worsening joint pain, 
swelling, redness or if you have any bleeding, dizziness, or 
other concerning symptoms
- Do not take ibuprofen or other NSAID medications

We wish you the best!  

Sincerely,  

Your ___ Team
 
Followup Instructions:
___